US06498170B2
1-Hexyl-3-[4-(4-oxo-piperidine-1-sulfonyl)-phenyl]-urea
The title compound was prepared from 1-hexyl-urea-4-benzenesulfonyl chloride and 4-piperidone monohydrate hydrochloride according to the procedure of Intermediate 31 as a translucent solid; 1H NMR (CDCl3) δ 0.86-0.95 (m, 3H), 1.29-1.38 (m, 6H), 1.48-1.55 (m, 2H), 2.54 (t, J=6.12 Hz, 4H), 3.22-3.28 (m, 2H), 3.36 (t, J=6.15 Hz, 4H), 5.07 (t, J=5.55 Hz, 1H), 7.04 (s, 1H), 7.50 (d, J=8.82 Hz, 2H), 7.65 (d, J=8.79 Hz, 2H); MS (ES) m/z 382.0 (MH+); HRMS for C18H27N3O4S: 381.1704.

reactant | 1-hexyl-urea 4-benzenesulfonyl chloride | C(CCCCC)NC(=O)N.C1=CC=C(C=C1)S(=O)(=O)Cl
reactant | 4-piperidone monohydrate hydrochloride | Cl.O.N1CCC(CC1)=O
product | 1-Hexyl-3-[4-(4-oxo-piperidine-1-sulfonyl)-phenyl]-urea | C(CCCCC)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)=O | C18H27N3O4S
